US04092311
A 269 g. portion of 6-(p-chlorophenyl)-3(2H)-pyridazinone and 1500 ml. of phosphorus oxychloride are heated on a steam bath for 5 hours. The excess phosphorus oxychloride is removed under vacuum. The solid concentrate is diluted with ice water and the resulting solid is recovered by filtration, washed with water and dried. This product is recrystallized twice from dimethylformamide-water yielding 6-(p-chlorophenyl)-3-chloropyridazine as an off-white solid, m.p. 202°-204° C.

reactant | 6-(p-chlorophenyl)-3(2H)-pyridazinone | ClC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7ClN2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(p-chlorophenyl)-3-chloropyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C10H6Cl2N2
